US04774253
6.9 g (30.8 mmol) of 2-(4-chlorophenyl)-4-methyl-5-oxazolemethanol were combined with 6.2 g (155 mmol) of powdered sodium hydroxide in 45 ml of acetone and the suspension was heated to reflux. 4.9 g (41.1 mmol) of chloroform in 10 ml of acetone were added dropwise during 30 minutes and the suspension was heated at reflux for 4 hours. The solvent was removed by evaporation under reduced pressure, and the residue was partitioned between 150 ml of diethyl ether and 400 ml of water. The organic phase was separated and the aqueous phase was extracted twice with diethyl ether. The aqueous phase was acidified to pH 2 with concentrated hydrochloric acid and extracted three times with 50 ml of dichloromethane each time. The combined dichloromethane extracts were dried over magnesium sulphate, filtered and evaporated to yield 3.7 g of crude product. Recrystallization from ethyl acetate yielded 3.1 g (32.5%) of 2-[[2-(4-chlorophenyl)-4 -methyl-5-oxazolyl]methoxy]-2-methylpropionic acid of melting point 166°-167° C.

reactant | 2-(4-chlorophenyl)-4-methyl-5-oxazolemethanol | 30.8 mmol, 6.9 g | ClC1=CC=C(C=C1)C=1OC(=C(N1)C)CO | C11H10ClNO2
reactant | sodium hydroxide | 155 mmol, 6.2 g | [OH-].[Na+]
reactant | chloroform | 41.1 mmol, 4.9 g | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | 45 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-[[2-(4-chlorophenyl)-4 -methyl-5-oxazolyl]methoxy]-2-methylpropionic acid | 3.1 g, 32.5% | ClC1=CC=C(C=C1)C=1OC(=C(N1)C)COC(C(=O)O)(C)C | C15H16ClNO4
